US07511144B2
Into a cooled (−78° C.) solution of 4-methoxycarbonylmethylene-3,3-dimethylpiperidine-1-carboxylic acid t-butyl ester (1.8 g, 6.4 mmol) in tetrahydrofuran (50 mL) obtained in the above 1) was slowly dropped, under an atmosphere of argon, 1 M diisobutylaluminum hydride in toluene (15.9 mL, 15.9 mmol). After dropping, the reaction mixture was stirred for 2 hours at the same temperature. After the reaction was completed, ethanol (10 mL) was added at 0° C. and allowed to warm to room temperature gradually. The reaction mixture was then concentrated under a reduced pressure, treated with an aqueous solution of 20% sodium potassium tartrate (50 mL), and stirred for 30 minutes. After stirring, the reaction mixture was extracted with ether, and dried over anhydrous sodium sulfate. After drying, the extract was filtered and filtrate was concentrated under a reduced pressure. The residue was subjected to silica gel column chromatography (developing solvent, hexane:ethyl acetate=2: 1) to obtain 0.95 g (yield 58.6%) of 4-(2-hydroxyethylidene)-3,3-dimethylpiperidine-1-carboxylic acid t-butyl ester. Its physical property is shown below.

reactant | 4-methoxycarbonylmethylene-3,3-dimethylpiperidine-1-carboxylic acid t-butyl ester | 6.4 mmol, 1.8 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=CC(=O)OC)(C)C | C15H25NO4
reactant | diisobutylaluminum hydride | 1 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 15.9 mmol, 15.9 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-(2-hydroxyethylidene)-3,3-dimethylpiperidine-1-carboxylic acid t-butyl ester | 0.95 g, yield 58.6% | C(C)(C)(C)OC(=O)N1CC(C(CC1)=CCO)(C)C | C14H25NO3
